US09102688B2
4-Cyano-2-nitro-benzenesulfonyl chloride (Intermediate 217)
In a similar fashion using route 3a general procedure 10, SOCl2 (2.5 ml, 33.7 mmol), CuCl (30 mg, 0.30 mmol), 4-amino-3-nitrobenzonitrile (1 g, 6.13 mmol), NaNO2 (0.61 g, 8.83 mmol) and conc. HCl (6.2 ml) gave the title compound (1.5 g) which was used in the next step without further purification. The structure was confirmed by 1H NMR.

reactant | SOCl2 | 33.7 mmol, 2.5 ml | O=S(Cl)Cl | Cl2OS
reactant | 4-amino-3-nitrobenzonitrile | 6.13 mmol, 1 g | NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | NaNO2 | 8.83 mmol, 0.61 g | N(=O)[O-].[Na+]
reactant | HCl | 6.2 ml | Cl | ClH
catalyst | CuCl | 0.30 mmol, 30 mg | Cl[Cu]
product | 4-Cyano-2-nitro-benzenesulfonyl chloride | 1.5 g | C(#N)C1=CC(=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C7H3ClN2O4S
